data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,993,"CC(=O)[O-:1].CC1=CC=C(C2=CC(C3=CC=C(C)N3)=CC([C:2]3=[NH+:3]C(C)=C[CH:4]3[H:5])=C2)N1.O.O=C[O-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6777,"C=C1CC2CC(=O)C(C)(C1)C2([O-])[O+:1](C)[Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,5637,"CO.C[O:1]CNCCC1=CC=CC=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,940,"CC[C:1](C)=[O:2].C[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3847,"CC(=O)CC[C:1](C)([NH:2]CC1=CC=CO1)[OH:3].NCC1=CC=CO1.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5952,"N.N#[C:1][H:2].NC(O)[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8813,"CCCC(C)=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,5824,"CC[O+:1](CC=CNC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4726,"CC(C)[N](C(C)C)[Li:1].COCC1CCCN1[N:2]=C1C=C(C)CCC1|(2, 1)"
train,pmechdb_split_0,0,6554,"CN[C:1](OC)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2334,"CO.N#[C:1][C:2]1([O-:3])CCOCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7508,"CC(C)(C)O.CC(C)C1=CC=CC(C(C)C)=C1N1C=C[N+](C2=C(C(C)C)C=CC=C2C(C)C)=[C:1]1[C:2]1([O-:3])CC(C2=CC=CC=C2)C(C2=CC=CC=C2)(C(F)(F)F)O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2015,"CC1C(C)(C)[O:1]1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,630,"CC(C)(O)[CH:1](C#N)[H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4059,"CCC(C)O[C:1](CC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8666,"CC1=CC=C([S:1](=O)(=O)[N-:2][N:3]=C2CC3C(CCC4C(C)(C)C(O[Si](C)(C)C(C)(C)C)CCC34C)C(C)C2C)C=C1.[H][H].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,178,"CNC=[N+:1](C)[Si-:2](C)(C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,1784,"C[S+:1]1C[CH2:2]1.[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10224,"C[NH+:1]=[CH:2][S-]|((2, 1), 1)"
train,pmechdb_split_0,0,8143,"CC(=O)[O-].O=C(CC[C:1](C1=CC=CC=C1)([NH:2]CC1=CC=CC=C1)[OH2+:3])C1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2227,"[H:1][NH3+:2].[O-]CC[CH2:3][Mg:4][Br]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9102,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCC1(C)OCC(CO)[O+:1]1[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7909,"NCCCC1CCCC[C:1]1=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7435,"CCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(CC(C)C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,2624,"CC(=O)[O-:1].CCN1C(CO)CC2(C34CC(C[O+:2](I5(OC(C)=O)(OC(C)=O)OC(=O)C6=C5C=CC=C6)[H:3])N(CC)C3NC3=CC=CC=C34)C3=CC=CC=C3NC12|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,958,"CC[C:1](=[CH:2]C)[OH:3].C[N+:4](C)=[CH2:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4992,"CCCCCC1C(C[CH2:1][O:2]S(=O)(=O)C2=CC=C(C)C=C2)C[CH:3]=[CH:4]1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1509,"C1=CC=C([OH+:1][Na:2])C=C1|((2, 1), 1)"
train,pmechdb_split_0,0,9642,"CC(=O)O.CCC(C)CC1CC(CCC2CCCCO2)C(CC)CC[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)CCC1CC1CCCO1|((1, 2), 2)"
train,pmechdb_split_0,0,10363,"CCCCBr.[Li+:1].[Li][O]C1C2=C(C=CC=C2)C([C-:2]2SCCCS2)C1(C)C|(2, 1)"
train,pmechdb_split_0,0,41,"CCOC(=O)N[N:1]([C:2](OCC)=[OH+:3])[P:4](OCC1=C(Br)C(OC)=C2C(=C1)C=C(OC)C=C2OC)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC1=CC(OC)=C2C(=C1)C=C(OCC1=CC=CC=C1)C(C(=O)[O-])=C2OC|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6940,"C=C(C)[C:1]1([O:2]S(=O)(=O)C2=CC=C(C)C=C2)CCCC[CH:3]1[H:4].CC(C)(C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4721,"C1=CC=NC=C1.CC(C)(CO)C[OH:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(Br)C=C([CH:2]=[OH+:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3835,"CC[OH:1].C[S+:2](C)OS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,2346,"CC(C)(C)[O-:1].CCN1CCC23C4=C5C=CC(OC)=C4OC2C(OC)(OC)[CH:2]([Br:3])[CH:4]([H:5])C3C1C5.CS(C)=O.[K+]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5351,"CC[NH2+]C(C)(C)[O-:1].C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4959,"C#CC[O+](C(=CC(=O)C1=CC=CC=C1)SC)[K:1].C#CC[O-:2].CSC|(2, 1)"
train,pmechdb_split_0,0,4306,"CC1(C2=CC=CC=C2)CC[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6380,"CC(=O)[O-:1].COC(=O)[CH:2]([H:3])[C:4](C)=[N+:5](C)CC1=CC=CC=C1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1419,"COC1=CC=C(COC2CC(CC(OC)C(CO[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[NH:1]P(O)(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)OC(C)(OC)C2)C=C1.N#N.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6637,"CC1([OH:1])C=CCC1.Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3385,"CC(=O)[O:1][H:2].CO.O.O=CC1CCC(O)([O:3]CCO)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2758,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C2=C(C=CC(C(F)(F)F)=C2)C=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,9278,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC(Cl)=C[C:2]([N+](=O)[O-])([H:3])[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,8008,"C1=CC=C([C:1](C2=CC=CC=C2)=[O:2])C=C1.C1=[C:3]([Li:4])CCCC1.CC(C)(C)I|((4, 3), 1);((1, 2), 2)"
